US07781436B2
N-(2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-ethyl)-N-methyl-acetamide
N-(2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-ethyl-methanesulfonamide (preparation described herein), was treated with NaH (1.05 eq), MeI (1.05 eq) in dry DMF under argon at RT for 2 h to give after purification by prep. HPLC the title compound.

reactant | 2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-ethyl-methanesulfonamide | ClC1=CC=C2C(=CN(C2=C1)CCCS(=O)(=O)N)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C22H24ClFN4O3S
reactant | NaH | 1.05 eq | [H-].[Na+]
reactant | MeI | 1.05 eq | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-ethyl)-N-methyl-acetamide | ClC1=CC=C2C(=CN(C2=C1)CCN(C(C)=O)C)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C24H26ClFN4O2
